US05641430
Preparation of trans-4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-n-propyl-1-silacyclohexane
2.5 g (20 mmols) of n-propyl bromide was dropped in a mixture of 0.5 g of magnesium (21 mmols) and 50 ml of THF to obtain a Grignard reagent. Subsequently, the solution was dropped in 50 ml of a THF solution of 7.2 g (20 mmols) of 4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-chloro-1-silacyclohexane to obtain a crude product. This product was found to be a mixture of trans and cis isomers with respect to the silacyclohexane ring. The product was after-treated by a usual manner and isolated through column chromatography to obtain 6.7 g (yield: 91%) of the intended trans-trans isomer product. The results of measurement of phase transition temperatures and the IR analysis are shown below.

reactant | 4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-chloro-1-silacyclohexane | 20 mmols, 7.2 g | FC=1C=C(C=CC1F)OC[C@@H]1CC[C@H](CC1)C1CC[SiH](CC1)Cl | C18H25ClF2OSi
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | trans-4-(trans-4-(3,4-difluorophenyloxymethyl)cyclohexyl)-1-n-propyl-1-silacyclohexane | yield: 91% | FC=1C=C(C=CC1F)OC[C@@H]1CC[C@H](CC1)[C@@H]1CC[Si@H](CC1)CCC | C21H32F2OSi
